US06831080B2
Step C: 1-(2-Fluoro-5-morpholin-4-yl-phenyl)ethanone
A mixture of 1-(5-amino-2-fluoro-phenyl)-ethanone (3.5 g), bromoethyl ether (5.929 g), and i-Pr2NEt (7.121 g) in toluene (20 mL) was refluxed for 16 hours. After cooling, the reaction mixture was quenched with water. The aqueous layer was extracted with dichloromethane, and the combined organic layers were dried over magnesium sulphate, filtered, and concentrated in vacuo. The residue was purified by silica gel flash chromatography (25% ethyl acetate in hexane) to give 3.74 g of the title compound as an oil.

reactant | 1-(5-amino-2-fluoro-phenyl)-ethanone | 3.5 g | NC=1C=CC(=C(C1)C(C)=O)F | C8H8FNO
reactant | bromoethyl ether | 5.929 g | BrCCOCCBr | C4H8Br2O
reactant | i-Pr2NEt | 7.121 g | CCN(C(C)C)C(C)C | C8H19N
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2-Fluoro-5-morpholin-4-yl-phenyl)ethanone | 3.74 g | FC1=C(C=C(C=C1)N1CCOCC1)C(C)=O | C12H14FNO2
